US04428870
Phenylacetylene (500 g, 4.2 mol) was added to a mixture of potassium hydroxide flake (290 g) and toluene (3 L). 2-Butanone (425 g, 5.9 mol) was added over 45 minutes keeping the temperature below 30° C. with periodic cooling and the resulting mixture agitated for 20 h at room temperature. Water (1 L) was added, the toluene solution washed until neutral, the solvent evaporated, and the residue distilled to give 517 g (71% yield) of 3-methyl-1-phenyl-1-pentyn-3-ol; bp 107°-110° C./3 mm; IR (film) 3400, 1150, 1000, 920 cm-1 ; NMR (CDCl3) 1.1 (3H, t), 1.6 (3H, s), 1.8 (2H, q), 2.2 (1H, s), 7.2-7.6 (5.H, m) δ; MS (m/e) 174, 156, 145, 43.

reactant | Phenylacetylene | 4.2 mol, 500 g | C1(=CC=CC=C1)C#C | C8H6
reactant | potassium hydroxide | [OH-].[K+]
reactant | toluene | 3 L | C1(=CC=CC=C1)C | C7H8
reactant | 2-Butanone | 5.9 mol, 425 g | CC(CC)=O | C4H8O
solvent | Water | 1 L | O | H2O
product | 3-methyl-1-phenyl-1-pentyn-3-ol | 517 g, 71% yield | CC(C#CC1=CC=CC=C1)(CC)O | C12H14O
